US05219871
Preparation of ethyl 3-(N-benzyl-N-methylamino)-3-methylbutanoate
A mixture containing ethyl 3-methyl-3-methylaminobutanoate (95 g-see Preparation 8), benzyl bromide (72 ml), anhydrous potassium carbonate (138 g) and acetonitrile (500 ml) was heated under reflux for 1.5 hours. The mixture was concentrated in vacuo and the residue partitioned between dichloromethane (500 ml) and 10% aqueous potassium carbonate (300 ml). The layers were separated and the aqueous layer extracted with dichloromethane (2×100 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give the title compound as a mobile, colourless oil, yield 150 g.

reactant | ethyl 3-methyl-3-methylaminobutanoate | 95 g | CC(CC(=O)OCC)(C)NC | C8H17NO2
reactant | benzyl bromide | 72 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 138 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | ethyl 3-(N-benzyl-N-methylamino)-3-methylbutanoate | C(C1=CC=CC=C1)N(C)C(CC(=O)OCC)(C)C | C15H23NO2
